US04677216
To a mixture of 10 ml (0.106 mol) of 1,4-dichloro-2-butyne and 11.5 ml (0.11 mol) of dichloromethylsilane (boiling point: 41° C.) was added 0.05 ml (4.8 mmol %) of an isopropanol solution of chloroplatinic acid prepared in the same manner as in Example 1, followed by heating under reflux for 1 hour, thereby obtaining 22 g of 1,4-dichloro-2-(dichloromethyl)silyl-2-butene.

reactant | 1,4-dichloro-2-butyne | 0.106 mol, 10 ml | ClCC#CCCl | C4H4Cl2
reactant | dichloromethylsilane | 0.11 mol, 11.5 ml | ClC(Cl)[SiH3] | CH4Cl2Si
catalyst | chloroplatinic acid | [H+].[H+].Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl
catalyst | isopropanol | 4.8 mmol, 0.05 ml | C(C)(C)O | C3H8O
product | 1,4-dichloro-2-(dichloromethyl)silyl-2-butene | 22 g, Yield: 87% | ClCC(=CCCl)[SiH2]C(Cl)Cl | C5H8Cl4Si
